US06048878
a) 1-tert-Butoxycarbonyl-4-fluoro-[2-(4-fluorophenyl)ethynyl]piperidine
A mixture of 1-tert-butoxycarbonyl-4-ethynyl-4-fluoropiperidine (1 g, 4.4 mmol) and 4-fluoroiodobenzene (610 μl, 5.3 mmol) in N,N-diethylamine (20 ml) was flushed with nitrogen for 15 mins, then palladium bis(tiphenylphosphine)chloride (150 mg, 0.2 mmol) and copper (I) iodide (42 mg, 0.2 mmol) added. The mixture was stirred at room temperature under an atmosphere of nitrogen for 2 hours, then evaporated. The residue was treated with water (50 ml) and extracted with diethyl ether (3×25 ml). The combined organic solutions were washed with water (1×50 ml), brine (1×20 ml), dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, ethyl acetate-hexane 1:9) gave 1.3 g (80%) of the title compound: δH (360 MHz, CDCl3) 1.47 (9H, s), 2.01-2.08 (4H, m), 3.51-3.64 (4H, m), 7.00-7.05 (2H, m), 7.42-7.46 (2H, m).

reactant | 1-tert-butoxycarbonyl-4-ethynyl-4-fluoropiperidine | 4.4 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)C#C | C12H18FNO2
reactant | 4-fluoroiodobenzene | 5.3 mmol, 610 μl | FC1=CC=C(C=C1)I | C6H4FI
reactant | N,N-diethylamine | 20 ml | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 0.2 mmol, 42 mg | [Cu]I
product | 1-tert-Butoxycarbonyl-4-fluoro-[2-(4-fluorophenyl)ethynyl]piperidine | 1.3 g, 80% | C(C)(C)(C)OC(=O)N1C(CC(CC1)F)C#CC1=CC=C(C=C1)F | C18H21F2NO2
